US05599993
Synthesis of 4-(3-aminophenoxy)-4'-phenylethynylbenzophenone (3-APEB)
In a 500 mL flask equipped with nitrogen inlet, overhead stirring assembly, Dean-Stark trap, and reflux condenser were placed 3-aminophenol (18.5 g, 0.17 mol), 4-phenylethynyl-4'-fluorobenzophenone (43.2 g, 0.14 mol), potassium carbonate (22 g, 0.16 mol), toluene (30 mL), and DMAc (200 mL). The mixture was heated to 142° C. for 8 h, then cooled to room temperature. The reaction mixture was poured into water and the resulting light yellow powder was collected by filtration. Recrystallization from water/acetone (50/50) (v) and sodium dithionite (0.5 g) afforded 51.8 g (95% yield) of the desired product: m.p. 137°-139° C. IR (KBr); 3414 and 3342 cm-1 (NH2); 3040, 1596, and 1499 cm-1 (aromatic C--H); 2216 cm-1 (C≡C), and 1646 cm-1 (C=O): Mass Spec. m/e (relative intensity): M+, 389.4 (100); FW=389.44 g/mol.

reactant | 3-aminophenol | 0.17 mol, 18.5 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 4-phenylethynyl-4'-fluorobenzophenone | 0.14 mol, 43.2 g | C1(=CC=CC=C1)C#CC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C21H13FO
reactant | potassium carbonate | 0.16 mol, 22 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | DMAc | 200 mL | CC(=O)N(C)C | C4H9NO
product | 4-(3-aminophenoxy)-4'-phenylethynylbenzophenone | 51.8 g, 95% yield | NC=1C=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)C#CC3=CC=CC=C3)C=C2)C=CC1 | C27H19NO2
